US04962203
Step 1. Preparation of 6-carbomethoxy-2-methyl quinoline
To a solution of 6-carboxy-2-methyl quinoline in MeOH (600 ml) was added concentrated H2SO4 and stirred for 3 days at room temperature. The reaction mixture was evaporated and the residue was diluted with H2O (250 ml) and ethyl acetate (250 ml), and transferred to a separatory funnel. A solution of saturated sodium bicarbonate in water (1 L) was added and extraction with ethyl acetate afforded a purple solid which was chromatographed on column of flash silica gel using hexane-ethyl acetate (2:1) as eluant to provide the title compound as a yellow solid: m.p. 98-101° C.

reactant | 6-carboxy-2-methyl quinoline | C(=O)(O)C=1C=C2C=CC(=NC2=CC1)C | C11H9NO2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | MeOH | 600 ml | CO | CH4O
product | 6-carbomethoxy-2-methyl quinoline | C(=O)(OC)C=1C=C2C=CC(=NC2=CC1)C | C12H11NO2
